US07763729B2
Sodium 3-cyano-1-(4-methylphenyl)-6-oxo-1,6-dihydropyridine-2-thiolate
Sodium bis(trimethylsilyl)amide (36.8 mL, 1.0M in THF, 36.8 mmol) was added slowly to a solution of 4-tolyl isothiocyanate (2.5 g, 16.75 mmol) in THF (30 mL) and acetonitrile (5 mL) at −78° C. The mixture was warmed to r.t. over 1 h. N,N-Dimethyluracil (2.35 g, 16.75 mmol) and EtOH (20 mL) were added and the mixture heated at reflux for 4 h. Volatiles were removed in vacuo and the residue was dissolved in EtOH (6 mL). Et2O (˜60 mL) was added slowly to produce a fine, off-white solid. The suspension was cooled to 0° C. and the solid filtered off, washed with Et2O and dried to give the title compound as an off-white solid (1.7 g, 39%). δH (DMSO-d6) 7.15-7.12 (3H, m), 6.80-6.77 (2H, m), 5.60 (1H, d, J 9.1 Hz), 2.30 (3H, s).

reactant | Sodium bis(trimethylsilyl)amide | 36.8 mmol, 1.0M, 36.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-tolyl isothiocyanate | 16.75 mmol, 2.5 g | C1(=CC=C(C=C1)N=C=S)C | C8H7NS
reactant | EtOH | 20 mL | CCO | C2H6O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Sodium 3-cyano-1-(4-methylphenyl)-6-oxo-1,6-dihydropyridine-2-thiolate | 1.7 g, 39% | C(#N)C1=C(N(C(C=C1)=O)C1=CC=C(C=C1)C)[S-].[Na+] | InChI=1S/C13H10N2OS.Na/c1-9-2-5-11(6-3-9)15-12(16)7-4-10(8-14)13(15)17;/h2-7,17H,1H3;/q;+1/p-1
